US08871756B2
N-[(4-Aminotetrahydro-2H-pyran-4-yl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 2-1 in Scheme 4 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 4-(aminomethyl)-N,N-dibenzyltetrahydro-2H-pyran-4-amine. MS obsd. (ESI+) [(M+H)+] 467, 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (d, J=7.2 Hz, 1 H), 7.87 (d, J=7.6 Hz, 1 H), 7.68 (s, 1 H), 7.64-7.60 (m, 1 H), 7.44 (m, 2 H), 7.29 (dd, J=2.0, 8.4 Hz, 1 H), 6.14 (s, 1 H), 5.16 (s, 2 H), 4.54 (brs, 2 H), 3.86-3.74 (m, 4 H), 3.58 (t, J=4.8 Hz, 2 H), 2.42 (s, 3 H), 2.18 (dd, J=2.4, 4.8 Hz, 2 H), 1.88-1.81 (m, 2 H), 1.57 (m, 2 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 4-(aminomethyl)-N,N-dibenzyltetrahydro-2H-pyran-4-amine | NCC1(CCOCC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H26N2O
product | N-[(4-Aminotetrahydro-2H-pyran-4-yl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NC1(CCOCC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C25H30N4O3S
